US04814343
alpha-(4H-1,3-Benzodioxin-6-yl)-1-triphenylmethyl-1H-imidazole-4-methanol
This compound is prepared like the preceding compound but starting from 6-bromo-4H-1,3-benzodioxin and 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde. After decomposing the reaction mixture, the reaction product is extracted with dichloromethane and recrystallized from isopropyl alcohol. By chromatography of the residue obtained after evaporation of the mother liquors, there is obtained a second crop of product. Yield: 53% of theory; M.P.: 165°-167° C.

reactant | 6-bromo-4H-1,3-benzodioxin | BrC1=CC2=C(OCOC2)C=C1 | C8H7BrO2
reactant | 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
product | alpha-(4H-1,3-Benzodioxin-6-yl)-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 53% | O1COCC2=C1C=CC(=C2)C(O)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H26N2O3
